US08426414B2
Part A. ((1R,2R)-1-Hydroxymethyl-2-methoxy-propyl)-carbamic acid tert-butyl ester
To a cold solution (−15° C.) of BocThr(Me)OH (5.14 g, 22 mmol) in dichloroethane (22 mL) were successively added N-methyl morpholine (2.44 mL, 22 mmol) and isobutyl chloroformate (2.99 mL, 22 mmol). After one min, the precipitate was filtered and washed with dichloroethane (5×4 mL). The filtrate and washings were combined in a large three neck flask in an ice-salt bath. A solution of NaBH4 (1.26 g, 33 mmol) in H2O (11 mL) was added at once, proceeding a strong evolution of gas, followed by H2O (500 mL). The mixture was then extracted with EtOAc (5×150 mL). The combined EtOAc was dried (Na2SO4) and concentrated to give the titled compound (5 g). MS (MH+ 220).

reactant | BocThr(Me)OH | 22 mmol, 5.14 g | N([C@@H]([C@H](OC)C)C(=O)O)C(=O)OC(C)(C)C | C10H19NO5
reactant | N-methyl morpholine | 22 mmol, 2.44 mL | CN1CCOCC1 | C5H11NO
reactant | isobutyl chloroformate | 22 mmol, 2.99 mL | ClC(=O)OCC(C)C | C5H9ClO2
reactant | NaBH4 | 33 mmol, 1.26 g | [BH4-].[Na+]
solvent | dichloroethane | 22 mL | ClC(C)Cl | C2H4Cl2
solvent | H2O | 11 mL | O | H2O
solvent | H2O | 500 mL | O | H2O
product | ((1R,2R)-1-Hydroxymethyl-2-methoxy-propyl)-carbamic acid tert-butyl ester | 5 g | C(C)(C)(C)OC(N[C@@H]([C@@H](C)OC)CO)=O | C10H21NO4
